US09259470B2
A solution of 1-methyl-1H-pyrazol-4-amine (0.054 g, 0.56 mmol) and (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (0.060 g, 0.11 mmol) in sec-BuOH (1 mL) was heated to 120° C. in a microwave reactor for 2 hours. The reaction mixture was cooled to room temperature and concentrated. The residue was diluted with ethyl acetate and washed with H2O (2×). The organic layer was dried, filtered and concentrated. The crude product was purified by column chromatography, eluting with DCM/MeOH (25:1) to give (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.013 g, 26%). 1H NMR (400 MHz, CD3OD) δ 8.50 (d, J=5.0 Hz, 1H), 7.96 (s, 1H), 7.85 (d, J=7.0 Hz, 1H), 7.58 (s, 1H), 7.48 (m, 1H), 7.34-7.28 (m, 2H), 7.20-7.17 (m, 2H), 7.06 (m, 1H), 6.12 (m, 1H), 4.28 (m, 1H), 4.19 (m, 1H), 3.88 (s, 3H); m/z (APCI-pos) M+1=441.1, 443.1.

reactant | 1-methyl-1H-pyrazol-4-amine | 0.56 mmol, 0.054 g | CN1N=CC(=C1)N | C4H7N3
reactant | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.11 mmol, 0.060 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
solvent | sec-BuOH | 1 mL | C(C)(CC)O | C4H10O
product | (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.013 g, 26% | ClC1=C(C=C(C=C1)[C@@H](CO)N1C(C=C(C=C1)C1=NC(=NC=C1)NC=1C=NN(C1)C)=O)F | C21H18ClFN6O2
